US05000946
A mixture of ethyl nicotinate (15.1 g, 0.1 mole), ethyl butyrate (17.4 g, 0.15 mole) and sodium ethoxide (10.2 g, 0.15 mole) was stirred and heated under nitrogen at 100°C. for five hours. After cooling, the mixture was diluted with water (150 ml), extracted with diethyl ether (50 ml) and the aqueous layer made acidic to pH1 with concentrated hydrochloric acid (50 ml). The aqueous layer was heated at 90°C. for 2 hours, cooled, and made alkaline with solid potassium carbonate and extracted with diethyl ether (3×75 ml). The dried (magnesium sulphate) organic layer was concentrated and distilled to give propyl 3-pyridyl ketone (b.pt. 118-120°C./14 mm Hg).

reactant | ethyl nicotinate | 0.1 mole, 15.1 g | C(C1=CN=CC=C1)(=O)OCC | C8H9NO2
reactant | ethyl butyrate | 0.15 mole, 17.4 g | C(CCC)(=O)OCC | C6H12O2
reactant | sodium ethoxide | 0.15 mole, 10.2 g | [O-]CC.[Na+]
solvent | water | 150 ml | O | H2O
product | propyl 3-pyridyl ketone | N1=CC(=CC=C1)C(=O)CCC | C9H11NO
